US04772600
2-(4-Chlorophenyl)-N-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide
Under a nitrogen atmosphere, a suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid 6.0 g (0.021 mole) and 1,1'-carbonyldiimidazole (3.39 g, 0.021 mole) in tetrahydrofuran (150 ml) was refluxed, with stirring, for 2.5 hrs. The mixture was cooled to room temperature and a solution of 3.6 g (0.116 mole) of monomethylamine in tetrahydrofuran (60 ml) was added dropwise and the reaction mixture was stirred at room temperature overnight. The tetrahydrofuran was evaporated and the residue was triturated in water (150 ml). The solid was filtered and rinsed with water. The solid was dissolved in hot isopropyl alcohol, treated with charcoal, filtered, and allowed to cool. Solid formed, and water was added to precipitate more. The solid was filtered and dried under vacuum to give 3.0 g (47.5%) of title compound, mp 238°-238.5° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.021 mole, 6.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.021 mole, 3.39 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | monomethylamine | 0.116 mole, 3.6 g | CN | CH5N
reactant | water | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 3.0 g, 47.5% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC | C15H13ClN4O
